US05780454
A. β-(6-Quinolinyl)-D,L-alanine
N-Acetyl β-(6-quinolinyl)-D,L-alanine ethyl ester (728 mg, 2.55 mmol) was heated at reflux in 6N HCl (20 mL). After 20 h, the reaction mixture was concentrated to dryness and the residue was dried in vacuo to provide the title compound, which was used directly in the next reaction.

reactant | N-Acetyl β-(6-quinolinyl)-D,L-alanine ethyl ester | 2.55 mmol, 728 mg | C(C)OC(C(NC(C)=O)CC=1C=C2C=CC=NC2=CC1)=O | C16H18N2O3
solvent | HCl | 6N, 20 mL | Cl | ClH
product | β-(6-Quinolinyl)-D,L-alanine | N1=CC=CC2=CC(=CC=C12)CC(N)C(=O)O | C12H12N2O2
